US03956260
47. Z-Gly-Phe-Gly-Pro-OtBu
15.5 g of Z-Gly-Phe-Gly-OH [manufactured according to J. R. Vaughan & J. A. Eichler, J.Am.Chem.Soc. 75, 5556 (1953)] are dissolved in 100 ml of absolute tetrahydrofurane and 5.3 ml of absolute triethylamine and 4.64 ml of isobutyl chlorocarbonate are added dropwise to the solution cooled to -20°C, whilst stirring, in such a way that the internal temperature does a way that the internal temperature does not exceed -15°C. Thereafter the mixture is allowed to react for 10 minutes at -10°C, is then again cooled to -20°C, and a solution of 7.6 g of H-Pro-OtBu in 30 ml of dimethylformamide is added dropwise whilst stirring, in such a way that the internal temperature does not exceed 0°C. The mixture is allowed to stand for 18 hours at 0°C, the triethylamine hydrochloride is then filtered off and the filtrate is evaporated at 40°C bath temperature. The residue is dissolved in 200 ml of ethyl acetate and the solution is washed with sodium bicarbonate solution, water, 10 % strength tartaric acid solution and water, dried with sodium sulphate and evaporated. The residue is crystallised from ethyl acetate-petroleum ether, melting point 66°- 71°C; [α]D20 = - 45° (c = 1% in chloroform).

reactant | Z-Gly-Phe-Gly-OH | 15.5 g | N(CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)O)C(=O)OCC1=CC=CC=C1 | C21H23N3O6
reactant | triethylamine | 5.3 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chlorocarbonate | 4.64 ml | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | H-Pro-OtBu | 7.6 g | N1[C@H](C(=O)OC(C)(C)C)CCC1 | C9H17NO2
solvent | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Z-Gly-Phe-Gly-Pro-OtBu | N(CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C30H38N4O7
